US07825128B2
(RS)—N-(morpholine-4-carbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
In the reaction of (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol (49.2 mg, 0.18 mmol) with (RS)—S-(4-aminophenyl)-N-(morpholine-4-carbonyl)-S-methylsulphoximide (47 mg, 0.17 mmol) according to procedure 5c, the desired product is obtained in 7% yield (6 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (0%-20% ethanol) and HPLC).

reactant | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | 0.18 mmol, 49.2 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C11H12ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(morpholine-4-carbonyl)-S-methylsulphoximide | 0.17 mmol, 47 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)N1CCOCC1)C | C12H17N3O3S
product | (RS)—N-(morpholine-4-carbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 7% yield | N1(CCOCC1)C(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C23H28N6O4S2
